US04085111
To a solution of 6.9 g of metallic sodium in 90 ml of methanol are added 24 g of 2-chloronicotinic acid and 18 g of 4-hydroxybenzonitrile. The methanol is distilled off under reduced pressure, 60 ml of nitrobenzene is added, and the mixture is allowed to stand at 180° C to 190° C for 6 hours. After cooling, an aqueous potassium carbonate solution is added to the reaction mixture, and the whole mixture is filtered off. The aqueous layer is separated, washed with ethyl acetate and made acid with hydrochloric acid. The crystalline precipitate is recrystallized from aqueous ethanol to give 18 g of 2-(4-cyanophenoxy)nicotinic acid melting at 198° C to 200° C.

reactant | sodium | 6.9 g | [Na] | Na
reactant | 2-chloronicotinic acid | 24 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4-hydroxybenzonitrile | 18 g | OC1=CC=C(C#N)C=C1 | C7H5NO
solvent | methanol | 90 ml | CO | CH4O
product | 2-(4-cyanophenoxy)nicotinic acid | 18 g | C(#N)C1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C13H8N2O3
